US04371710
1.3 ml (9.3 mmols) of trifluoroacetic anhydride was dissolved in 3.3 ml of trifluoroacetic acid, and 0.175 ml of a 30% hydrogen peroxide solution (H2O2, 1.71 mmol and H2O, 7.55 mmols) was added dropwise thereto while cooling in an ice bath. After completion of the addition, the mixture was stirred for 1.5 hour and 1.55 mmol of heptadecafluoro-n-octyl iodide was added and the mixture was allowed to react at 0° to 5° C. for 18 hours to obtain di(trifluoroacetoxy)iodoheptadecafluoro-n-octane in 66% yield.

reactant | trifluoroacetic anhydride | 9.3 mmols, 1.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrogen peroxide | 1.71 mmol | OO | H2O2
reactant | heptadecafluoro-n-octyl iodide | 1.55 mmol | FC(C(C(C(C(C(C(F)(F)I)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C8F17I
solvent | trifluoroacetic acid | 3.3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | di(trifluoroacetoxy)iodoheptadecafluoro-n-octane | 66% yield | FC(C(=O)OI(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)OC(C(F)(F)F)=O)(F)F | C12F23IO4
